Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
ibuprofen / morphine / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
Right hip hemiarthroplasty (___)
 
History of Present Illness:
___ year old woman with a history of dementia, CKD (b/l cr 
1.2-1.4), anemia (b/l hgb ___, dCHF (EF 65%), angiodysplasia 
of stomach and duodenum, HTN, UTIs, transferred from ___ 
s/p low energy mechanical fall and found to have right displaced 
femoral neck fracture, transferred for right hip 
hemiarthroplasty.

She has dementia and is a poor historian so much of the history 
is obtain from records. She was found on the ground.  Per 
patient aides, she climbed over the bed rails and landed on the 
floor.  Unknown head trauma although patient did not complain of 
neck or head pain, although she did complain of right hip pain. 
She initially presented to ___ where she was found to have 
a right femoral neck fracture.  CT of the head and c-spine were 
negative.  CXR was notable for possible pneumonia, blood 
cultures were sent.  She was given CTX and azithromycin at the 
OSH.  She was also found to have hct 24 with guaiac positive 
stool.

In the ED, initial vitals were: 96.7 87 154/66 16 92% Nasal 
Cannula
Exam notable for: AOx~2 (self, thinks ___, year ___. 
III/VI systolic murmur. Lungs clear anteriorly. R hip TTP no 
ecchymosis/ gross deformity. No edema. Rectal brown stool.   
Labs notable for Cr 1.4, Hgb of 7.1 (7.9 at OSH).
Right Femur Plain film: Overlying external artifact partially 
obscures the view. Given this, no displaced fracture is  seen  
in  the mid to distal right femur.

Orthopedics was consulted in the ED.  Patient will need a right 
hip hemiarthroplasty, with a plan to go to the OR tomorrow 
(___).  Patient was admitted to medicine for pneumonia, 
delirium, and possible GI bleed.  

Of note, the patient recently was hospitalized from ___ to 
___.  Admitted with UTI with cultures positive for ___ 
and enterococcus, treated with 2 week course of daptomycin and 
fluconazole.  Underwent left ureteral stent replacement on 
___ for an obstructed left ureteral stent with funguria, 
that was again exchanged ___.  At that time, also worked up 
for anemia.  Concern for multiple myeloma but family opted for 
conservative treatment only and not to investigate further.  
Hemoglobin was 10.6 on discharge. 

 
On the floor,  vitals were: 97.6 180/72 74 22 94%2L.  The 
patient currently reports pain in her right leg.  She does not 
endorse any other symptoms.  

 
Past Medical History:
--Dementia 
--CKD (b/l Cr 1.2-1.4)
--Anemia (b/l hgb ___
--multiple myeloma
--dCHF, EF 65%
--angiodysplasia of stomach and duodenum w/ h/o hemorrhage
--h/o UTIs, calculus of ureter
--GERD
--Hypertension
--Hyperlipidemia 
--Hx of C-diff infection

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS:  97.6 180/72 74 22 94%2L
General: Frail, elderly woman laying in bed in no acute distress
HEENT: Normocephalic, atraumatic. No midline C-spine tenderness
Chest: Clear to auscultation, no wheezes or rales
Cardiovascular: systolic ejection murmur heard throughout the 
precordium
Abdominal: Nontender, Nondistended, Soft, old surgical scar 
along midline, no organomegaly
Extr/Back: Right leg is shortened and mildly internally rotated, 
tenderness to palpation along lateral aspect of the right hip 
and pain with mild range of motion, 2+ DP pulse, digits are warm 
and well perfused
Skin: No rash, Warm and dry
Neuro: Speech fluent, and sensation intact distally in the right 
lower extremity
Psych: A + O x 1, able to follow simple commands
 

DISCHARGE PHYSICAL EXAM
PHYSICAL EXAM:  
VS: 97.5, afebrile, 90, 187/70 90 18 96RA
General: Frail, elderly woman laying in bed in no acute distress
HEENT: Normocephalic, atraumatic. 
Chest: Clear to auscultation, bibasilar rales, no wheezing
Cardiovascular: systolic ejection murmur heard throughout the 
precordium
Abdominal: Nontender, Nondistended, Soft, old surgical scar 
along midline, no organomegaly
Extr/Back: mild pain with palpation of right leg, no overt 
swelling, erythema, or purpura.  Dressing removed. Incision w/ 
no erythema or exudate. No peripheral leg edema.  Pulses intact. 

Skin: No rash, Warm and dry
Neuro: Speech fluent, and sensation intact distally in the right 
lower extremity
Psych: A + O x 1
 
Pertinent Results:
LABORATORY STUDIES ON ADMISSION
=====================================
___ 02:00PM BLOOD WBC-8.8 RBC-2.41* Hgb-7.1* Hct-22.7* 
MCV-94 MCH-29.5 MCHC-31.3* RDW-19.4* RDWSD-66.6* Plt ___
___ 02:00PM BLOOD ___ PTT-31.4 ___
___ 02:00PM BLOOD Glucose-92 UreaN-26* Creat-1.4* Na-133 
K-4.6 Cl-103 HCO3-19* AnGap-16
___ 02:00PM BLOOD Calcium-9.5 Phos-3.5 Mg-2.1
___ 05:15AM BLOOD calTIBC-290 Ferritn-104 TRF-223
___ 02:04PM BLOOD Lactate-1.5

RADIOLOGY
======================================
Right femur x-ray:  Overlying external artifact partially 
obscures the view.  Given this, no displaced fracture is seen in 
the mid to distal right femur. 

Chest x-ray (___): Reverse total shoulder arthroplasty is 
seen.  There is also evidence of prior kyphoplasty within a 
lower thoracic vertebral body.  Heart size is prominent but 
stable.  There is a left retrocardiac opacity and a small 
left-sided pleural effusion.  No overt pulmonary edema or 
pneumothoraces are seen.  There is generalized demineralization. 


MICROBIOLOGY
=======================================
URINE CULTURE: NEGATIVE

BLOOD CULTURE: PENDING

LABORATORY STUDIES ON DISCHARGE
========================================

___ 10:00AM BLOOD WBC-8.1 RBC-2.95* Hgb-8.6* Hct-27.3* 
MCV-93 MCH-29.2 MCHC-31.5* RDW-20.2* RDWSD-68.0* Plt ___
___ 10:00AM BLOOD ___ PTT-34.8 ___
___ 10:00AM BLOOD Glucose-113* UreaN-19 Creat-0.9 Na-134 
K-3.0* Cl-103 HCO3-23 AnGap-11
___ 10:00AM BLOOD Calcium-9.4 Phos-1.8* Mg-1.8
 
Brief Hospital Course:
Ms. ___ is a lovely ___ year old woman with a history of 
dementia, CKD (b/l cr 1.2-1.4), anemia (b/l hgb ___, dCHF (EF 
65%), angiodysplasia of stomach and duodenum, HTN, transferred 
from ___ s/p low energy ___ fall and found to have 
right displaced femoral neck fracture.

ACTIVE ISSUES: 
==========================
## RIGHT DISPLACED FEMORAL NECK FRACTURE: 
Patient admitted s/p low energy mechanical fall and found to 
have a right displaced femoral neck fracture.  Orthopedics 
consulted.  Underwent right hip hemiarthroplasty (___) with 
intra-operatively course complicated by transient LBBB that 
resolved spontaneously, and patient given 1U PRBCs.  DVT 
prophylaxis with heparin sc given high risk of bleeding with 
lovenox in setting of CKD. Post-operatively, pain controlled 
with standing tylenol and occasional Oxycodone 2.5mg and 
tramadol.  Foley was removed on post-operative day 2 (___). 
 Hemoglobin was stable on discharge.  She was discharge with a 
plan to follow-up with orthopedic surgeon, Dr. ___, in 2 
weeks.   

## DEMENTIA/AMS: 
Patient has a history of dementia of unclear etiology.  On 
admission she had worsening mental status.  Initially concern 
for infectious process and treated with IV ceftriaxone and 
azithromycin for concern of a UTI and pneumonia at an outside 
hospital.  However, urinalysis at outside hospital unremarkable. 
 Urine culture at ___ showed no growth.  No leukocytosis and 
normal lactate and patient remained afebrile during admission.  
There was a low suspicion for pneumonia, since patient was 
asymptomatic, her lung exam was unremarkable, and her chest 
x-ray did not reveal any significant infiltrates.  Her mental 
status improved during admission with pain control. 
 
## ANEMIA: 
Patient has a history of anemia  (baseline hgb ___.  On 
admission, her hemoglobin was around her baseline.  She did have 
guaiac positive stool, but this is chronic for her and she has a 
history of angiodysplasia of the stomach.  Intraoperatively, she 
received 1U PRBCs.  Her hemoglobin was at her baseline on 
discharge and she remained hemodynamically stable.

## HYPONATREMIA: 
Developed mild asymptomatic hyponatremia to 130 during 
admission.  

## DIASTOLIC CHF: 
During hospitalization, she was treated with metoprolol 25mg 
Q6H.  Transitioned back to home metoprolol XL 100mg daily prior 
to discharge.  Lasix initially held, but was restarted prior to 
discharge.

## CKD: 
Creatinine remained at baseline during admission.

TRANSITIONAL ISSUES:
=====================================
#Patient had been taking Bactrim for UTI prophylaxis prior to 
admission. Bactrim held during admission and on discharge. 
Patient may need to restart at some point in consultation with 
PCP.
#Will need DEXA scan and consideration of starting 
bisphosphonate. Started on vitamin D and calcium during 
admission.
#follow-up scheduled with orthopedic surgery in ___
#Needs to continue heparin sc for a total of 30 days (last day 
___
#Started patient on neutral-phos daily for phos and K repletion
#Needs repeat laboratory studies on ___, including CBC to 
monitor anemia, CHEM10 to monitor phos and K, INR/PTT to monitor 
coags. If PTT rising, consider decreasing heparin from TID to 
BID.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. FoLIC Acid 1 mg PO DAILY 
2. Gabapentin 100 mg PO QHS 
3. Pravastatin 20 mg PO QPM 
4. TraMADOL (Ultram) 50 mg PO TID:PRN pain 
5. Furosemide 20 mg PO DAILY 
6. Omeprazole 20 mg PO DAILY 
7. Venlafaxine XR 37.5 mg PO DAILY 
8. Albuterol Inhaler 2 PUFF IH Q4H:PRN dyspnea, wheeze 
9. Metoprolol Succinate XL 100 mg PO DAILY 
10. TraZODone 50 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN dyspnea, wheeze 
2. FoLIC Acid 1 mg PO DAILY 
3. Furosemide 20 mg PO DAILY 
4. Omeprazole 20 mg PO DAILY 
5. TraMADOL (Ultram) 50 mg PO TID:PRN pain 
6. TraZODone 50 mg PO QHS:PRN insomnia 
7. Acetaminophen 650 mg PO Q8H pain, fever 
8. Calcium Carbonate 1250 mg PO TID 
9. Heparin 5000 UNIT SC TID 
Continue for 30 days (last day ___ 
10. Vitamin D 800 UNIT PO DAILY 
11. Gabapentin 100 mg PO QHS 
12. Metoprolol Succinate XL 100 mg PO DAILY 
13. Pravastatin 20 mg PO QPM 
14. Venlafaxine XR 37.5 mg PO DAILY 
15. Docusate Sodium 100 mg PO BID 
16. Senna 17.2 mg PO HS 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Right displaced femoral neck fracture.

 
Discharge Condition:
Mental Status: Confused - sometimes. Baseline dementia. 
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___ 
___.  You were transferred to the hospital for your 
hip surgery.  You underwent a right hip hemiarthroplasty, which 
is a surgical procedure that replaces one half of the hip joint 
with a prosthetic (the femur), while leaving the other half 
intact (the hip bone).  

You were started on several new medications.  You were started 
on Tylenol for your pain control.  You need to continue taking 
heparin to prevent blood clots.  It's important to continue 
taking heparin for 30 days (last day ___.  You were 
started on calcium and vitamin D to help stregthen your bones.  

It is important for you to follow-up with your orthopedic 
surgeon, Dr. ___ below section for details).  It is 
also important for you to follow-up with your primary care 
physician ___ 1 week of discharge.  Your rehab facility will 
help schedule your follow-up appointment with your PCP.

Sincerely,

Your ___ team

 
Followup Instructions:
___